US08114872B2
2-(2-(4-(Iodomethyl)-1H-1,2,3-triazol-1-yl)ethyl) isoindoline-1,3-dione
Stir a mixture of triphenylphosphine (0.29 g, 1.10 mmol) and iodine (0.28 g, 1.10 mmol) in DCM (4 mL) for 10 min. Add 1H-imidazole (0.12 g, 1.84 mmol) and stir for 10 min. Add 2-(2-(4-(hydroxymethyl)-1H-1,2,3-triazol-1-yl) ethyl) isoindoline-1,3-dione (0.2 g, 0.73 mmol) and stir overnight at RT. Dilute with DCM and wash with water and saturated aqueous sodium chloride. Dry over sodium sulfate. Concentrate the solution in vacuo. Purify by column chromatography (DCM to 20% ethyl acetate in DCM) to afford the title compound as a yellow solid (0.22 g, 78%). MS (EI) m/z 383 [M+1]+.

reactant | triphenylphosphine | 1.10 mmol, 0.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 1.10 mmol, 0.28 g | II | I2
reactant | 1H-imidazole | 1.84 mmol, 0.12 g | N1C=NC=C1 | C3H4N2
reactant | 2-(2-(4-(hydroxymethyl)-1H-1,2,3-triazol-1-yl) ethyl) isoindoline-1,3-dione | 0.73 mmol, 0.2 g | OCC=1N=NN(C1)CCN1C(C2=CC=CC=C2C1=O)=O | C13H12N4O3
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-(4-(Iodomethyl)-1H-1,2,3-triazol-1-yl)ethyl) isoindoline-1,3-dione | 0.22 g, 78% | ICC=1N=NN(C1)CCN1C(C2=CC=CC=C2C1=O)=O | C13H11IN4O2
